Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-4.0479368755500005
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3][H:4].[O:1]=[C:2][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],5.439905251950001
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.08226620018
[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2],2.92353102753
[C:6]([H:7])([H:8])[O:9][C:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],-1.3610128944100002
[H:1][C:2].[O:3]=[C:4]=[C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9],-3.25173075511
[H:14].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.5646822343
[C:1].[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-7.342940471219999
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8],1.7645388042400003
[C:13]([H:14])([H:15])[H:16].[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.61125371693
[C:1]#[C:2][O:3][C:4]#[C:5][H:7].[O:6]>>[C:1]#[C:2][O:3][C:4][C:5](=[O:6])[H:7],-3.5700073636500003
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7],0.55473576753
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9].[H:1],5.55083917846
[H:1][C:2]([H:3])([H:4])[C@@:5]1([H:6])[O:7][C:8][O:9][C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][C:8]=[O:9])[C:10]([H:11])[H:12],1.41389865004
[O:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.02466917002
[C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9].[O:1]>>[O:1]=[C:2]=[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],-6.9525074598000005
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3],3.9704772772
[C:1]=[C:2]([O:3][O:4])[C:6]([H:7])([H:8])[H:9].[H:5]>>[C:1]=[C:2]([O:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9],-3.75854630079
[H:13].[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.55869497803
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13],-1.18465597469
[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7][H:8]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][H:8],-5.04028411636
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],5.265056008459999
[O:1]=[C:2]=[C:3]1[O:4][C@:5]1([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3][C@@:5]([O:4])([H:6])[C:7]([H:8])([H:9])[H:10],1.72265880643
[H:1][C:2]#[C:3][C:4][C:5]([C:6]([H:7])([H:8])[H:9])=[O:10]>>[H:1][C:2]=[C:3]1[C:4][C:5]([C:6]([H:7])([H:8])[H:9])[O:10]1,2.05613276105
[C:2]#[C:3][O:4][H:5].[H:1]>>[H:1][C:2]#[C:3][O:4][H:5],-5.628023430040001
[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13].[O:4]=[C:5]([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.4170029132
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],3.98874725785
[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],0.62520127
[H:11].[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-3.67743200953
